US09371299B2
Synthesis of 2-benzyl-4-(2-hydroxy-ethyl)-[1,2,4]thiadiazolidine-3,5-dione (Compound 4)
To a suspension of benzoic acid 2-(2-benzyl-3,5-dioxo-[1,2,4]thiadiazolidin-4-yl)ethyl ester (74.0 g, 207.6 mmol) in methanol (740 mL) 12N HCl (740 mL) was added at room temperature. The mixture was heated at 50° C. for 18 h, then additional 12N HCl (250 mL) was added and the mixture was stirred for 84 hours at 40° C. until hydrolysis was completed. The mixture was concentrated at reduced pressure to remove the methanol, and the resulting mixture was extracted with methylene chloride (3×500 mL). The combined organic layers were dried (Na2SO4), filtered and evaporated to yield an oil that was treated with hot ethyl acetate (200 mL) and precipitated by the addition of n-heptane (200 mL) to yield the pure desired product as a white solid (42.5 g, 81%)

reactant | benzoic acid 2-(2-benzyl-3,5-dioxo-[1,2,4]thiadiazolidin-4-yl)ethyl ester | 207.6 mmol, 74.0 g | C(C1=CC=CC=C1)N1SC(N(C1=O)CCOC(C1=CC=CC=C1)=O)=O | C18H16N2O4S
reactant | HCl | 12N, 250 mL | Cl | ClH
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 12N, 740 mL | CO | CH4O
product | 2-benzyl-4-(2-hydroxy-ethyl)-[1,2,4]thiadiazolidine-3,5-dione | 42.5 g, 81% | C(C1=CC=CC=C1)N1SC(N(C1=O)CCO)=O | C11H12N2O3S
